US05641785
13.1. cis-(±)-7-Methoxy-3-methyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one
Starting with a solution of ethyl 2-formyl-6-methoxy-1,2,3,4-tetrahydroquinoline-1-carboxylate in diethyl ether, cooled to 0° C., and methylmagnesium bromide, these reactants being treated under similar conditions to those of Step 1 of Example 1, the cis derivative,

reactant | ethyl 2-formyl-6-methoxy-1,2,3,4-tetrahydroquinoline-1-carboxylate | C(=O)C1N(C2=CC=C(C=C2CC1)OC)C(=O)OCC | C14H17NO4
reactant | methylmagnesium bromide | C[Mg]Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | cis-(±)-7-Methoxy-3-methyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | COC=1C=C2CC[C@@H]3N(C2=CC1)C(O[C@H]3C)=O | C13H15NO3
